data/oMe_Silver.jsonl
{"reaction_id": "NR-304_1-c1ccccc1","level": "medium","name": "Takai Olefination","reactants_smiles": ["O=C([H])(c1ccccc1)","C(I)(I)I","Cl[Cr]Cl"],"products_smiles": ["c1ccccc1/C=C/I"],"conditions": "CrCl2","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC(I)[Cr](Cl)Cl","step_weight": 0,"rationale": "Cr(II) undergoes oxidative addition into a C–I bond due to iodine’s excellent leaving group ability and the high polarizability of the C–I bond, forming a reactive organochromium intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC([Cr](Cl)Cl)[Cr](Cl)Cl","step_weight": 0,"rationale": "A second oxidative addition occurs because the remaining C–I bond is similarly activated, and Cr(II) readily inserts, producing a gem-dichromium species with enhanced nucleophilicity at the methylene carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C(O[Cr](Cl)Cl)C(I)([Cr](Cl)Cl)","step_weight": 0,"rationale": "The nucleophilic iodomethyl-dichromium attacks the electrophilic aldehyde carbonyl, facilitated by polarization of the C=O bond and stabilization of the alkoxide by coordination to chromium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1/C=C/I","step_weight": 0,"rationale": "Syn-elimination is favored due to the chelation geometry imposed by chromium, leading to selective E-alkenyl iodide formation driven by steric minimization between substituents."}],"description": "In the Takai olefination, CrCl2 activates iodoform through successive oxidative additions, generating a nucleophilic iodomethyl-dichromium species. This species adds to the aldehyde, and stereoselective elimination yields the E-vinyl iodide, driven by chromium coordination and thermodynamic product stability."}
{"reaction_id": "NR-113_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CC_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-c1ccccc1_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)#[N+][O-]","CC/C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(/c1ccccc1)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"products_smiles": ["C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=NOC(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C1(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=NOC(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C1(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
